US07662824B2
3-Aminopropanol (1.36 g, 18.1 mmol) was added to a solution of 4-bromo-1H-indole-6-carboxylic acid (4.35 g, 18.1 mmol), triethylamine (4.60 mL, 45.3 mmol), and O-benzotriazol-1-yl-N,N,N′,N′,-tetramethyluronium hexafluorophosphate (HBTU) (6.87 g, 18.1 mmol) in DMF (40 mL) and stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and purified by column chromatography (10% methanol in dichloromethane) to yield 3.0 g (56%) of 4-bromo-1H-indole-6-carboxylic acid (3-hydroxy-propyl)-amide. Mass spectrum (LCMS, ESI pos.): Calcd for C12H13BrN2O2 296.02. Found 296.9; (M+H).

reactant | 3-Aminopropanol | 18.1 mmol, 1.36 g | NCCCO | C3H9NO
reactant | 4-bromo-1H-indole-6-carboxylic acid | 18.1 mmol, 4.35 g | BrC1=C2C=CNC2=CC(=C1)C(=O)O | C9H6BrNO2
reactant | triethylamine | 45.3 mmol, 4.60 mL | C(C)N(CC)CC | C6H15N
reactant | O-benzotriazol-1-yl-N,N,N′,N′,-tetramethyluronium hexafluorophosphate | 18.1 mmol, 6.87 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-bromo-1H-indole-6-carboxylic acid (3-hydroxy-propyl)-amide | 3.0 g, 56% | OCCCNC(=O)C1=CC(=C2C=CNC2=C1)Br | C12H13BrN2O2
